Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Percocet / milk
 
Attending: ___.
 
Chief Complaint:
malaise
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
As per admitting MD
Ms. ___ is a ___ year old female with pancreatic cancer who
presents from clinic with general malaise.

She was recently admitted from ___ with abdominal
distention and dyspnea due to malignant ascites that improved
after paracentesis. In addition, she was recently admitted with
VRE/Citrobacter bacteremia due to cholangitis. She underwent 
ERCP
with sludge removal and recently finished a 2 week course of
antibiotics. 

Since discharge, she initially was doing well until about 1 week
ago when she has had generalized fatigue. She says she has not
had fevers but has noted chills and her son feels that she
appears more ill. She is without chest pain or dyspnea. No abd
pain. No n/v. Last BM 1 day ago.

She presented to ___ clinic for follow up and her scheduled
weekly paracentesis where she told Dr. ___ symptoms. 
Her
LFTs were noted to be elevated. Given this in the setting of her
current symptoms, it was decided to admit the patient to 11R.

Prior to arriving to 11R, the patient will undergo ___ guided
paracentesis as an outpatient. 

 
Past Medical History:
As per admitting MD
PAST ONCOLOGIC HISTORY:  
- ___: Presented to ED with 6 months of worsening LLQ
abdominal pain, weight loss (~25lbs), early satiety, abdominal
distension, nausea, and constipation. Found to have large volume
ascites, peritoneal carcinomatosis, and R ovarian lesion. 
- ___: Omental biopsy and therapeutic paracentesis. Biopsy
returns suggestive of pancreaticobiliary/upper GI primary. 
- ___: MRCP with extensive omental and peritoneal disease
with associated pancreatic tail mass, porta hepatis soft tissue
mass with biliary obstruction and left portal vein partial
thrombosis
- ___: EGD/ERCP, pancreatic mass Bx c/w pancreatic
adenocarcinoma. Straight uncovered metal stent placed into the
right intrahepatic system
- ___: C1D1 FOLFIRINOX
- ___: Admission due to dehydration, diarrhea, fatigue,
and overall significant toxicity from FOLFIRINOX
- ___: C1D1 FOLFOX
- ___: C2D1 FOLFOX
- ___: admitted with febrile neutropenia (scheduled
Neulasta given on day of admission), altered mental status, 
found
to have cholangitis and enterococcal and citrobacter bacteremia.
ERCP ___ showed sludge but no pus, LFTs normalized after removal
of sludge. D/c on 14 days daptomycin IV and cipro PO. CT showed
subsegemental PE and left subclavian DVT (was on Xarelto for 
PVT;
however, it was held for ___ days every week for paracentesis);
continued on Xarelto with the plan to minimize interruptions of
anticoagulation
- ___:  C2D15 FOLFOX
- ___:  admitted for abdominal distention, SOB, fatigue. 
Received paracentesis with improvement in symptoms.  
- ___:  C3D1 FOLFOX
- ___ and ___:  telephone calls with weakness and fatigue
- ___:  admitted for abdominal distention, SOB, fatigue. 
Received paracentesis with improvement in symptoms.  
- ___:  Palliative care visit with ___.  Described
pain in lower pelvic area and thighs and lower back thought to 
be
due to ascites, suggested weekly paracentesis and low-dose
hydromorphone (0.25--0.5 PO QD/BID PRN).  Also noted anxiety and
stress. 
- ___ AM:  paracentesis for 4L

PAST MEDICAL HISTORY:  
-Pancreatic Cancer, as above
-PE, subclavian DVT and PVT on rivaroxaban
-HTN
-polymicrobial bacteremia

 
Social History:
___
Family History:
As per admitting MD
- Father with colon cancer in his ___
- Sister with breast cancer in her ___
 
Physical Exam:
Admission:
Vital Signs sheet entries for ___: 
BP: 118/79. Heart Rate: 114. O2 Saturation%: 100. Weight: 130.
Height: 65. BMI: 21.6. Temperature: 98.1. Resp. Rate: 16. Pain
Score: 0. Distress Score: 0.
GENERAL:  Lying comfortably in bed, NAD
HEENT: Thrush noted on tongue. Moist membranes
EYES:  PERRL, anicteric
NECK:  supple
RESP:  No increased WOB, CTAB. No wheezing, rhonchi or crackles
___: Regular, no murmurs 
GI:  Distended, non tender, no rebound or guarding
EXT:  warm, no edema
SKIN:  scattered ecchymosis 
NEURO:  Alert, fluent speech. CN II-XII intact
ACCESS:  POC c/d/I

Discharge:
GENERAL: Sitting comfortably in bed, NAD, pleasant, calm
HEENT: Thrush noted on tongue. Moist membranes
EYES:  PERRL, anicteric
NECK:  supple, normal ROM
RESP:  No increased WOB, CTAB. No wheezing, rhonchi or crackles
___: Regular, no murmurs, normal distal perfusion without edema 
GI:  Distended, non tender, no rebound or guarding
EXT:  warm, no edema, no deformity
SKIN:  warm, dry, no rash
GU: No foley or suprapubic tenderness
NEURO:  AOx3 fluent speech
ACCESS:  POC c/d/I

 
Pertinent Results:
Admit:

___ 10:00AM BLOOD WBC-12.1* RBC-3.24* Hgb-10.2* Hct-31.6* 
MCV-98 MCH-31.5 MCHC-32.3 RDW-20.0* RDWSD-70.6* Plt ___
___ 10:00AM BLOOD UreaN-10 Creat-0.7 Na-132* K-3.3* Cl-95* 
HCO3-24 AnGap-13
___ 10:00AM BLOOD ___ PTT-30.6 ___
___ 10:00AM BLOOD ALT-122* AST-143* AlkPhos-661* 
TotBili-2.8*
___ 10:00AM BLOOD Albumin-2.8* Calcium-8.3* Phos-3.7 Mg-1.9

DischargE:

___ 05:24AM BLOOD WBC-7.5 RBC-2.98* Hgb-9.1* Hct-28.8* 
MCV-97 MCH-30.5 MCHC-31.6* RDW-19.4* RDWSD-68.1* Plt ___
___ 05:24AM BLOOD ___ PTT-99.4* ___
___ 05:24AM BLOOD Glucose-90 UreaN-7 Creat-0.7 Na-137 K-4.0 
Cl-96 HCO3-28 AnGap-13
___ 05:24AM BLOOD ALT-66* AST-52* AlkPhos-426* TotBili-1.0
___ 05:24AM BLOOD Calcium-8.0* Phos-4.6* Mg-2.0

Micro:
Blood/Urine Cx pending

Imaging: 
Paracentesis ___:
Technically successful ultrasound guided therapeutic 
paracentesis. 
4 L of fluid were removed. 

 
Brief Hospital Course:
___ PMH metastatic pancreatobiliary carcinoma (omentum, 
peritoneum, porta hepatis, pancreatic tail and right ovary), c/b 
biliary obstruction + bacteremia (s/p ERCP/stent), PE, and 
malignant ascites (s/p weekly paracentesis), who presented from 
clinic with malaise and elevated LFTs suggestive of cholangitis, 
improved on Abx without endoscopic intervention, was discharged 
home to complete course of antibiotics

#OBSTRUCTIVE JAUNDICE
#CONCERN FOR CHOLANGITIS:
Patient presented from clinic with malaise, chills and elevated 
LFTs suggestive of biliary obstruction. Given history of 
multiple episodes of cholangitis and bacteremia with VRE and 
Citrobacter, patient was started on Zosyn and improved. 24 hrs 
later WBC/Tbili normalized, AST/ALT downtrended. Given temporary 
nature of lab findings and improvement with IV abx, patient may 
have had temporary obstruction from small stone/sludge which has 
since
passed. During hospitalization, blood cx did not return 
positive. 

Pt therefore treated for early cholangitis, with plan for 7 day 
course of PO antibiotics (ciprofloxacin) given negative 
cultures. Last day ___

#Malignant Ascites
Given that patient presented with chills, malaise, leukocytosis 
and c/f infection, would have been nice to see ascites studies, 
but none were sent during ___ guided procedure. Patient was 
without any abdominal symptoms though which argues against SBP 
and was on empiric abx course as above. Ascites had 
reaccumulated somewhat by time of discharge but was not yet in 
need of repeat paracentesis. Patient had appt scheduled for 5 
days later (weekly on ___ which she was encouraged to keep. 


#Oral candidiasis
Continue nystatin, to be re-evaluated at next onc followup to 
ensure has completely resolved. 

#Hyponatremia
Mild, likely due to hypovolemia, resolved with albumin/IVF

#Hx OF PE/DVT AND PVT: 
On rivaroxaban at home but was on hold for possible ERCP with 
heparin gtt in meantime. Returned to home anticoagulation on 
discharge

#Metastatic pancreatobiliary carcinoma : 
Currently being treated with FOLFOX. Dr ___ regarding 
discharge in case she wanted to adjust patient's followup plan.

#Anemia
Chronic, stable, near baseline. To be trended in outpatient 
setting by oncology team.

I personally spent 49 minutes preparing discharge paperwork, 
educating patient/family, answering questions, and coordinating 
care with outpatient providers
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Nystatin Oral Suspension 5 mL PO QID 
2. Pancrelipase 5000 1 CAP PO TID W/MEALS 
3. Pantoprazole 40 mg PO Q12H 
4. Prochlorperazine 10 mg PO Q6H:PRN Nausea/Vomiting - Second 
Line 
5. Senna 17.2 mg PO BID 
6. Ondansetron ODT 8 mg PO Q8H:PRN Nausea/Vomiting - First Line 
7. Rivaroxaban 20 mg PO DAILY 

 
Discharge Medications:
1.  Ciprofloxacin HCl 500 mg PO Q12H 
RX *ciprofloxacin HCl 500 mg 1 tablet(s) by mouth every twelve 
(12) hours Disp #*8 Tablet Refills:*0 
2.  Nystatin Oral Suspension 5 mL PO QID 
RX *nystatin 100,000 unit/mL 5 ml by mouth four times a day 
Refills:*0 
3.  Ondansetron ODT 8 mg PO Q8H:PRN Nausea/Vomiting - First Line 
 
4.  Pancrelipase 5000 1 CAP PO TID W/MEALS  
5.  Pantoprazole 40 mg PO Q12H 
RX *pantoprazole 40 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
6.  Prochlorperazine 10 mg PO Q6H:PRN Nausea/Vomiting - Second 
Line  
7.  Rivaroxaban 20 mg PO DAILY  
8.  Senna 17.2 mg PO BID  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Cholangitis
Biliary Obstruction
metastatic pancreatobiliary carcinoma 
Hx of PE
malignant ascites

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms ___

It was a pleasure taking care of you during your stay. As you 
know, you were admitted for a possible infection of your biliary 
system. Fortunately, with antibiotics, your labs improved and 
you felt better. It is possible that we had caught your 
infection early, and the sludge or small stone resolved without 
intervention. 

You should continue antibiotics on discharge for an additional 4 
days and follow up with your oncologist. If you develop a 
recurrence of altered mental status, fever, or are feeling 
unwell, please return to the ER. 
 
Followup Instructions:
___